US07291635B2
A solution of 1-aminomethylnaphthalene (2.15 g, 13.6 mmol) and TEA (1.65 g, 16.3 mmol) in CH2Cl2 (50 mL) is treated with ethyl bromoacetate (2.28 g, 13.6 mmol) dropwise over 90 min. The mixture is stirred at RT for 3 h and washed with water. The organic layer is dried over anhydrous MgSO4 and concentrated. The residue is flash chromatographed on silica gel using CH2Cl2→1% MeOH in CH2Cl2 as the eluent to afford N-(1-naphthyl-methyl)-glycine ethyl ester as a yellow oil: [M+1]+=244.

reactant | 1-aminomethylnaphthalene | 13.6 mmol, 2.15 g | NCC1=CC=CC2=CC=CC=C12 | C11H11N
reactant | ethyl bromoacetate | 13.6 mmol, 2.28 g | BrCC(=O)OCC | C4H7BrO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(1-naphthyl-methyl)-glycine ethyl ester | C(C)OC(CNCC1=CC=CC2=CC=CC=C12)=O | C15H17NO2
